US06514968B1
Preparation 6 9-Benzyl-8-chloro-9H-carbazol-4-ol
Pyridinium bromide perbromide (0.1856 g, 0.58 mmol) is added to a solution of 9-benzyl-8-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one in THF (0.7 mL) and DMF (0.5 mL) and the mixture is heated to 75° C. After stirring for 5.5 h, THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium sulfate/brine and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure to give a residue. A mixture of the resulting residue, lithium bromide (0.0940 g, 0.0011 mol), lithium carbonate (0.0772 g, 0.0010 mol) and DMF (2 mL) is heated at 120° C. for two hours. The DMF is then removed under high vacuum and the residue is partitioned between dichloromethane and water. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (80 mL) using 15% ethyl acetate in heptane/dichloromethane (6:1) to give 0.1060 g (72%) of the title compound: mp 163-165.5° C.; MS (ESI−) for C19H14CINO m/z 306.1 (M−H)−; IR (drift) 3537, 1632, 1587, 1452, 1417, 1351, 1339, 1311, 1268, 1208, 1112, 1073, 789, 734, 729 cm−1; 1H NMR (CDCl3) δ5.42, 5.98, 6.59, 6.93, 7.09, 7.15-7.28, 7.36, 8.29. Anal. Calcd for C19H14ClNO: C, 74.15; H, 4.59; N, 4.55. Found: C, 73.22; H, 4.53; N, 4.62.

reactant | Pyridinium bromide perbromide | 0.58 mmol, 0.1856 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-benzyl-8-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(CCCC12)=O)Cl | C19H16ClNO
reactant | lithium bromide | 0.0011 mol, 0.0940 g | [Br-].[Li+]
reactant | lithium carbonate | 0.0010 mol, 0.0772 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-8-chloro-9H-carbazol-4-ol | 0.1060 g, 72% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)O)Cl | C19H14ClNO
